Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Cerebral vascular accident
 
Major Surgical or Invasive Procedure:
Redosternotomy Mitaral valve replacement #25 tissue valve

 
History of Present Illness:
Mrs. ___ is an ___ yo female s/p MV repair on ___ who has
had multiple TIAs this year with 6 just since ___.  She had a
stroke in ___ that lasted for 12 hrs.  Most recent was ___ the
___ with L sided weakness/numbness that last 45 minutes.  
Also in ___ she had PE and IVC filter. She has been on
coumadin for the pe and has had a stroke when her INR was
suprathrapeutic. She has undergone considerable work-up,
including echo. Echo revealed small mass (thrombus vs
vegetation). Blood cultures were negative.  Dr. ___ the
patient in ___ and determined that surgical risk 
outweighed
benefit given her age and redo status.  
She has subsequently been admitted to an outside hospital.  Echo
reveals an increase in size and complexity of the mass.  She
remains afebrile with negative blood cultures and no stigmata of
endocarditis.  She is transferred for surgical evaluation.

 
Past Medical History:
Mitral Regurgitation
h/o Acute diastolic heart failure 
chronic Atrial fibrillation 
h/o Deep vein thrombosis 
Osteoarthritis of left knee with dislocated joint 
Spinal stenosis
Hypertension 
Left hip bursitis 
Renal calculi 
s/p Tonsillectomy
s/p repair left wrist fracture 
s/p Total abdominal hysterectomy 
s/p Bilateral cataract surgery
 
Social History:
___
Family History:
father ?MI, grandfather deceased from MI at ___
 
Physical Exam:
Pre-op Physical Exam
Pulse: 65 SR Resp: 15 O2 sat: 100%
B/P  Right:  120/60  Left: 
Height:     Weight: 71.6 kg
General:  NAD, conversant
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender []  + BS [x]
Extremities: Warm [x], well-perfused [x]  Edema [x] __1+
No splinter hemorrhages, ___ lesions.  
Varicosities: None [x]
Neuro: Grossly intact []x
Pulses:
Femoral      Right: 2  Left:2
DP           Right: 2  Left:2
___           Right: 2  Left:2
Radial       Right: 2  Left:2
Carotid Bruit        Right: x   Left:x

Discharge exam:
VS T97.2  HR 71 Afib  BP 127/76  RR 18  O2sat 99% RA
Wt 77.8kg
Gen: NAD
Neuro: A&Ox3, MAE. nonfocal exam
Pulm: diminished left base
CV: irreg irreg, sternum stable, incision-CDI
Abdm: soft, NT/NABS
Ext: warm, well perfused. 1+ bilat ___ edema
 
Pertinent Results:
Admission labs:
___ 09:00PM   ___ PTT-37.5* ___
___ 09:00PM   PLT COUNT-342
___ 09:00PM   WBC-6.5 RBC-4.50# HGB-13.7# HCT-40.0# MCV-89 
MCH-30.5 MCHC-34.3 RDW-12.7
___ 09:00PM   ALBUMIN-4.0 CALCIUM-8.7 PHOSPHATE-2.5* 
MAGNESIUM-1.9
___ 09:00PM   LIPASE-57
___ 09:00PM   ALT(SGPT)-18 AST(SGOT)-23 LD(LDH)-251* ALK 
PHOS-117* AMYLASE-139* TOT BILI-0.4
___ 09:00PM   GLUCOSE-113* UREA N-13 CREAT-0.6 SODIUM-136 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-26 ANION GAP-11
Discharge Labs:
___ 05:15AM BLOOD WBC-8.2 RBC-3.41* Hgb-10.5* Hct-31.5* 
MCV-92 MCH-30.7 MCHC-33.2 RDW-14.8 Plt ___
___ 06:50AM BLOOD ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD ___
___ 06:50AM BLOOD UreaN-15 Creat-0.7 Na-131* K-4.1 Cl-100
___ 05:15AM BLOOD Glucose-96 UreaN-14 Creat-0.6 Na-135 
K-4.4 Cl-100 HCO3-27 AnGap-12
___ 06:50AM BLOOD Mg-2.0

___
TEE
Pre-CPB: 1 The left atrium is moderately dilated. No spontaneous 
echo contrast is seen in the body of the left atrium. The left 
atrial appendage emptying velocity is depressed (<0.2m/s). No 
thrombus is seen in the left atrial appendage. 
2. Left ventricular wall thicknesses and cavity size are normal. 

3. Right ventricular chamber size and free wall motion are 
normal. 
4. The ascending, transverse and descending thoracic aorta are 
normal in diameter and free of atherosclerotic plaque. There are 
simple atheroma in the descending thoracic aorta. 
5. There are three aortic valve leaflets. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Mild to moderate (___) aortic regurgitation is seen. 
6. A mitral valve annuloplasty ring is present. At least 2 
vegetations seen on the anterior and posterior leaflets. There 
is severe valvular mitral stenosis (area <1.0cm2). Due to 
co-existing aortic regurgitation, the pressure half-time 
estimate of mitral valve area may be an OVERestimation of true 
mitral valve area. Mitral valve area was calculated at 0.8-0.9 
cm2. There is moderate functional mitral stenosis (mean gradient 
5 mmHg) due to mitral annular calcification. Mild (1+) mitral 
regurgitation is seen. 
7. There is no pericardial effusion. 
Drs. ___ were notified in person of the 
results.
Post-CPB: On infusion of phenylephrine. AV pacing for prolonged 
PR interval. Well seated bioprothetic valve in the mitral 
postion. Small inferiolateral perivalvular leak. Small central 
leak. Peak gradient 5 mmHg, mean gradient 4 mmHg at cardiac 
output of 2.5. Preserved biventricular systolic function. AI and 
TR remain ___. Aortic contour normal post-decannulation.   
.
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 9:48 
AM 
Final Report: Since the prior exam, the bilateral chest tubes 
have been removed.  There are very small bilateral apical 
pneumothoraces, slightly larger on the right than left.  The 
right pneumothorax measures approximately 12 mm and the left 
approximately 7 mm.  There is no evidence of tension.  Bibasilar 
atelectasis is unchanged.  There is no definite pleural 
effusion.  There is no pulmonary edema.  Severe cardiomegaly is 
stable.  The mediastinal contours are unchanged.  Sternal wires 
are intact.  Mediastinal clips are noted.   
IMPRESSION: 
1.  Small biapical pneumothoraces after chest tube removal. 
2.  Stable bibasilar atelectasis. 
3.  Stable severe cardiomegaly. 
The study and the report were reviewed by the staff radiologist. 
 
___. ___ 

___ CT from ___- per verbal report: no official reead at 
this time.
Right upper lobe opacity measuring 16x2cm likely hematoma but 
cannot be sure.
Substernal fluid collection measuring 6x2cm likely normal 
post-op changes
Recommend: followup CT in 6 weeks

 
Brief Hospital Course:
The patient was transferred from outside hospital after several 
TIA's. She had known mitral valve mass vs vegetation and was 
preop for redo mitral valve replacement. She brought to the 
operating room on ___ and underwent mitral valve replacement, 
please see operative report for details in summary she had: Redo 
sternotomy and redo mitral valve surgery with mitral valve 
replacement with a 25 mm ___ Bicor Epic tissue 
heart valve. Her bypass time was 80 minutes with a crossclamp 
time of 61 minutes. Overall the patient tolerated the procedure 
well and post-operatively was transferred to the CVICU intubated 
on levophed and propofol. She initally had moderate amount of 
bleeding and required products, she began to manifest tampanade 
physiology, an echo was performed which confirmed tamponade. She 
returned to the operating room for exploration and removal of 
clot and correction of coagulopathy. See operative notes for 
details. Once returning from the OR she was hemodynamically 
stable and levophed infusion was weaned. She continue to have 
moderate chest tube drainage and was given additional red blood 
cells and platelets on POD#1. Her bleeding resolved and she was 
extubated on POD#1 without difficulty.
Once extubated he was alert and oriented and breathing 
comfortably.  The patient was neurologically intact and 
hemodynamically stable on no inotropic or vasopressor support. 
Low dose Beta blocker was initiated at first due to bradycardia 
and the patient was gently diuresed toward the preoperative 
weight.  The patient was transferred to the telemetry floor for 
further recovery on POD2.  Chest tubes and pacing wires were 
discontinued per cardiac surgery protocol without complication.  
The remainder of her hospital course was uneventful, she was 
worked with nursing and physical therapy services for assistance 
with strength and mobility.  By the time of discharge on POD7 
the patient was ambulating with assistance the wound was healing 
and pain was controlled with oral analgesics.  The patient was 
discharged to ___ in ___ in good condition 
with appropriate follow up instructions. She is to follow up 
with Dr ___ in 1 month.

 
Medications on Admission:
Atorvastatin 20mg daily
Cardizem CD 120mg daily
Furosemide 40mg daily
Toprol XL 50mg daily
Pantoprazole 40mg daily
KCl 40mEq daily
Warfarin 2mg daily
Aspirin 81mg daily
Calcium Carbonate 500mg daily
Vit D3 1,000 Units daily
Magnesium Chloride (slow mag) 64mg BID
MVI daily

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
3. Calcium Carbonate 500 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Vitamin D 1000 UNIT PO DAILY 
___  MD to order daily dose PO DAILY 
target INR ___ 
8. Acetaminophen 650 mg PO Q4H:PRN pain 
9. Amiodarone 400 mg PO DAILY 
400mg Daily x 1 week then 200mg daily 
10. Bisacodyl ___AILY:PRN constipation 
11. Docusate Sodium 100 mg PO BID 
12. Furosemide 40 mg PO DAILY 
13. Metoprolol Tartrate 25 mg PO TID 
14. Milk of Magnesia 30 ml PO DAILY 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. Slow-Mag *NF* (magnesium chloride) 64  Oral bid 
17. Potassium Chloride 20 mEq PO Q12H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p redo sternotomy/mitral valve replacement/excision of mitral 
valve mass
PMH:
Acute diastolic heart failure admission ___, Mitral 
regurgitation, atrial fibrillation cardioverted ___, deep vein 
thrombosis, Osteoarthritis left knee with dislocated joint, 
spinal stenosis, hypertension, Left hip bursitis, Renal calculi, 
Mitral Valve repair ___, tonsillectomy, ORIF left wrist 
fracture, total abdominal hysterectomy, bilateral cataracts 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, with assistance
Sternal pain managed with Ultram and tylenol
Incision: Sternum-healing well no erythema or drainage
Edema: 1+ bilateral ___

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for one month or while taking narcotics.
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___